US06518423B1
8-[4-(2-Pyridyl)thiazol-2-ylmethyl]-10H-pyrazino[2,3-b][1,4]benzothiazine
To a solution of 550 mg of (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)thioacetamide in a solvent mixture of ethanol (10 ml) with N,N-dimethylformamide (10 ml) was added 560 mg of (2-bromoacetyl)pyridine hydrobromide and the resulting mixture was heated to 60 to 70° C. for 2 hours. Then the reaction mixture was brought back to room temperature and distributed into dichloromethane and an aqueous solution of sodium bicarbonate. After extracting the organic layer, the extract was washed with water and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the crystals thus precipitated were washed successively with ethyl acetate and diethyl ether to thereby give 420 mg of the title compound as yellow crystals.

reactant | (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)thioacetamide | 550 mg | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC(=S)N | C12H10N4S2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | (2-bromoacetyl)pyridine hydrobromide | 560 mg | Br.BrCC(=O)C1=NC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 8-[4-(2-Pyridyl)thiazol-2-ylmethyl]-10H-pyrazino[2,3-b][1,4]benzothiazine | 420 mg | N1=C(C=CC=C1)C=1N=C(SC1)CC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C19H13N5S2
